US06599917B1
d) 3-[2-(2-Phenylethyl)-6-methyl-3-pyridyl]ethynyl-3-quinuclidinol
10 ml of N,N-dimethylformamide was added to a mixture of 1.2 g of 6-methyl-2-(2-phenylethyl)pyridyl trifluoromethane sulfonate, 522 mg of 3-ethynyl-3-quinuclidinol, 400 mg of tetrakis(triphenylphosphine)palladium(0), 217 mg of cuprous iodide and 1.7 ml of triethylamine, followed by heating under stirring at 50° C. in an oil bath for one hour in a nitrogen atmosphere. After cooling as it was, the reaction solution was sprinkled over silica gel and subjected to silica gel column chromatography using chloroform/methanol/aqueous 36% ammonia (46:5:0.5) as an eluent for separation and purification, to give 490 mg of the target compound.

reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 6-methyl-2-(2-phenylethyl)pyridyl trifluoromethane sulfonate | 1.2 g | FC(S(=O)(=O)OC=1C(=NC(=CC1)C)CCC1=CC=CC=C1)(F)F | C15H14F3NO3S
reactant | 3-ethynyl-3-quinuclidinol | 522 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 400 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[2-(2-Phenylethyl)-6-methyl-3-pyridyl]ethynyl-3-quinuclidinol | 490 mg | C1(=CC=CC=C1)CCC1=NC(=CC=C1C#CC1(CN2CCC1CC2)O)C | C23H26N2O
